US08304443B2
Benzyl 2-(1-benzyl-3-cyclopropylindazol-6-yloxy)ethylcarbamate
Benzyl 2-bromoethylcarbamate (1.0563 g) which can be prepared according to the method described in Reference example 40, etc. was dissolved in dehydrated DMF (5 mL), added with 1-benzyl-3-cyclopropylindazol-6-ol (533.4 mg) which can be prepared according to the method described in Reference example 3, etc. and potassium carbonate (879.1 mg), and stirred overnight at 50° C. under nitrogen atmosphere. After cooling to room temperature, the reaction solution was added to water and extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over sodium sulfate. After the solvent was evaporated under reduced pressure, the resulting reside was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=81:19→60:40) to obtain the title compound as a crude product (508.2 mg).

reactant | Benzyl 2-bromoethylcarbamate | 1.0563 g | BrCCNC(OCC1=CC=CC=C1)=O | C10H12BrNO2
reactant | 1-benzyl-3-cyclopropylindazol-6-ol | 533.4 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=C(C=C12)O)C1CC1 | C17H16N2O
reactant | potassium carbonate | 879.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-(1-benzyl-3-cyclopropylindazol-6-yloxy)ethylcarbamate | C(C1=CC=CC=C1)N1N=C(C2=CC=C(C=C12)OCCNC(OCC1=CC=CC=C1)=O)C1CC1 | C27H27N3O3
